US07816522B2
(72a) [3-(2-fluoroethoxymethyl)-5-methoxyphenyl]methanol
To a solution of 1 g of 5-methoxy-1,3-benzenedimethanol in 10 ml of DMF there was added 238 mg of sodium hydride (60% oily suspension) at 0° C. After stirring at room temperature for 30 minutes, 1.04 g of 1-fluoro-2-iodoethane was added and the mixture was stirred at room temperature for 22 hours. Water was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine, and then dried over anhydrous sodium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (145 mg) as a colorless oil.

reactant | 5-methoxy-1,3-benzenedimethanol | 1 g | COC=1C=C(C=C(C1)CO)CO | C9H12O3
reactant | sodium hydride | 238 mg | [H-].[Na+]
reactant | 1-fluoro-2-iodoethane | 1.04 g | FCCI | C2H4FI
reactant | Water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [3-(2-fluoroethoxymethyl)-5-methoxyphenyl]methanol | 145 mg | FCCOCC=1C=C(C=C(C1)OC)CO | C11H15FO3
